US07435815B2
Ethyl-quinolin-4-ylmethyl-amine
prepared by reaction of ethylamine with quinoline-4-carbaldehyde

reactant | ethylamine | C(C)N | C2H7N
reactant | quinoline-4-carbaldehyde | N1=CC=C(C2=CC=CC=C12)C=O | C10H7NO
product | Ethyl-quinolin-4-ylmethyl-amine | C(C)NCC1=CC=NC2=CC=CC=C12 | C12H14N2
